US05401774
To ρ-fluoro-α-methylcinnamic acid (177.9 g., 0.987 mole) in 3.6 l. ethanol is added 11.0 g. of 5% Pd/C and the mixture is reduced at room temperature under a hydrogen pressure of 40 p.s.i. Uptake is 31/32 lbs. (97% of theoretical). After filtering the catalyst, the filtrate is concentrated in vacuo to give the product ρ-fluoro-α-methylhydrocinnamic acid used without weighing in next step.

reactant | ρ-fluoro-α-methylcinnamic acid | 0.987 mole, 177.9 g | FC1=CC=C(C=C(C(=O)O)C)C=C1 | C10H9FO2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | ρ-fluoro-α-methylhydrocinnamic acid | FC1=CC=C(CC(C(=O)O)C)C=C1 | C10H11FO2
